US07541372B2
2-(5-Methyl-3-phenyi-isoxazol-4-yl)-5-thiophen-2-yl-[1,3,4]oxadiazole
To a suspension of 5-methyl-3-phenylisoxazole-4-carboxylic acid (357 mg, 1.76 mmol) in dichloromethane (7 mL) was added thiophene-2-carboxylic acid hydrazide (250 mg, 1.76 mmol) and 2-chloro-1,3-dimethylimidazolium chloride (654 mg, 3.87 mmol). After the solution was stirred for 15 min at ambient temperature triethylamine (1.2 mL, 8.79 mmol) was added at 0° C. and the light brown suspension was stirred for 18 h while warming to ambient temperature. It was washed with water (25 mL) and aqueous sodium carbonate (half saturated, 25 mL). The aqueous layers were extracted with dichloromethane and the combined organic layers were dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 70:30) afforded the title compound (233 mg, 43%) as a light yellow semisolid. MS: m/e=310.3 [M+H]+.

reactant | 5-methyl-3-phenylisoxazole-4-carboxylic acid | 1.76 mmol, 357 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
reactant | thiophene-2-carboxylic acid hydrazide | 1.76 mmol, 250 mg | S1C(=CC=C1)C(=O)NN | C5H6N2OS
reactant | 2-chloro-1,3-dimethylimidazolium chloride | 3.87 mmol, 654 mg | [Cl-].ClC1=[N+](C=CN1C)C
reactant | triethylamine | 8.79 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 2-(5-Methyl-3-phenyi-isoxazol-4-yl)-5-thiophen-2-yl-[1,3,4]oxadiazole | 233 mg, 43% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1OC(=NN1)C=1SC=CC1 | C16H11N3O2S
